US07579351B2
8-(3-Piperidin-1-yl-propoxy)-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one
The suspension consistent of 0.27 g (0.97 mmol) 8-(3-chloro-propoxy)-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one, 0.16 g (1.2 mmol) potassium carbonate, 0.16 g (0.97 mmol) potassium iodide and 0.12 ml (99 μg, 1.2 mmol) piperidine (commercially available) in 10 mL 2-butanone was heated under reflux for 19 hours. After cooling down to room temperature the reaction mixture was poured on saturated aqueous sodium bicarbonate solution water and was extracted three times with dichloromethane. The combined organic layers were washed with brine, dried over magnesium sulfate, filtered and evaporated. The residue was flash-chromatographed on silica gel with dichloromethane:methanol:ammonia (9:1:0.1 v/v) as eluant to give 0.12 g (39%) of the desired compound as a colorless solid.

reactant | 8-(3-chloro-propoxy)-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one | 0.97 mmol, 0.27 g | ClCCCOC1=CC=2C=C3N(C2C=C1)CCNC3=O | C14H15ClN2O2
reactant | potassium carbonate | 1.2 mmol, 0.16 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.97 mmol, 0.16 g | [I-].[K+]
reactant | piperidine | 1.2 mmol, 0.12 ml, 99 μg | N1CCCCC1 | C5H11N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 2-butanone | 10 mL | CC(CC)=O | C4H8O
product | 8-(3-Piperidin-1-yl-propoxy)-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one | 0.12 g, 39% | N1(CCCCC1)CCCOC1=CC=2C=C3N(C2C=C1)CCNC3=O | C19H25N3O2
